simulator lang=spectre
global 0

ahdl_include "./dut/leaky_hold.va"

// Public feedback uses three non-periodic captures separated by a long droop interval.
V_sample (sample 0) vsource type=pwl wave=[0 0 14n 0 14.2n 0.9 17n 0.9 17.2n 0 68n 0 68.2n 0.9 71n 0.9 71.2n 0 145n 0 145.2n 0.9 148n 0.9 148.2n 0 162n 0]
V_rst (rst 0) vsource type=pwl wave=[0 0.9 4n 0.9 4.2n 0 112n 0 112.2n 0.9 130n 0.9 130.2n 0 162n 0]
V_vin (vin 0) vsource type=pwl wave=[0 0.26 38n 0.26 38.2n 0.78 98n 0.78 98.2n 0.33 162n 0.33]

XDUT (sample rst vin vout) leaky_hold


simulatorOptions options evas_profile=balanced

tran tran stop=162n maxstep=200p
save sample rst vin vout
